US08044070B2
1) Production of 2-fluoro-5-[4-cyanophenyl]pyridine
According to the same method as in Example 1-2) but using 2-fluoro-5-bromopyridine and 4-cyanophenylboronic acid, the entitled compound was obtained.

reactant | 2-fluoro-5-bromopyridine | FC1=NC=C(C=C1)Br | C5H3BrFN
reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 2-fluoro-5-[4-cyanophenyl]pyridine | FC1=NC=C(C=C1)C1=CC=C(C=C1)C#N | C12H7FN2
